US09062144B2
Synthesis of 4-(4-methylpiperazinyl)styrene [MPS]
Dropwise, 39 ml of n-BuLi (1.7 M, 66 mmol) was added to a stirred, cold (0° C.) solution of methyltriphenylphosphonium bromide (23.2 g, 65 mmol) in 100 ml of THF (dried) under N2. After 15 min, a solution of 4-(4-methylpiperazinyl)benzaldehyde (11.9 g, 58 mmol) in 30 ml of THF was added dropwise via needle. The yellow suspension was stirred for 4 hours and treated with NH4Cl. The solution was filtered and concentrated under vacuum. The residue was purified by silica gel column chromatography elution with hexane, EtOAc, and Et3N in a 70:20:10 ratio to yield 10.6 g (90%) of white solid product. Without being bound by theory, it is believed that the following reaction took place.

reactant | n-BuLi | 66 mmol, 1.7 M, 39 ml | [Li]CCCC
reactant | 4-(4-methylpiperazinyl)benzaldehyde | 58 mmol, 11.9 g | CN1CCN(CC1)C1=CC=C(C=O)C=C1 | C12H16N2O
reactant | NH4Cl | [NH4+].[Cl-]
catalyst | methyltriphenylphosphonium bromide | 65 mmol, 23.2 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(4-methylpiperazinyl)styrene | 10.6 g, 90% | CN1CCN(CC1)C1=CC=C(C=C)C=C1 | C13H18N2
